US03987158
A mixture of 3-bromobutan-2-one (75.5 g.) and finely-powdered potassium iodide (1 g.) in ethyl methyl ketone (50 ml.) was added dropwise, over 25 minutes, to a stirred, refluxing mixture of phenol (47 g.) and dry potassium carbonate (82 g.) in ethyl methyl ketone (100 ml.) Stirring and refluxing were continued for a total of 5 hours and the mixture was cooled, poured into water (cs. 500 ml.) and extracted with ether. The ether extract was washed exhaustively with 5N-sodium hydroxide, dried over anhydrous sodium sulphate and evaporated. The residue was distilled to give pure 3-phenoxybutan-2-one, b.p. 110°-112°/14 mm.

reactant | 3-bromobutan-2-one | 75.5 g | BrC(C(C)=O)C | C4H7BrO
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | phenol | 47 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 82 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 50 ml | CC(=O)CC | C4H8O
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
solvent | water | 500 ml | O | H2O
product | 3-phenoxybutan-2-one | O(C1=CC=CC=C1)C(C(C)=O)C | C10H12O2
